* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -2.2786315333358965e-19
Fd1_1 0 s1 V1 -1.1393157666679481e-17
Gr1_1_1 0 s1 x1_a1 0 -8.085506900168752e+30
Gr2_1_1 0 s1 x2_a1 0 -1.289558365876168e+18
Gr3_1_1 0 s1 x3_a1 0 18097031804181.39
Gr4_1_1 0 s1 x4_a1 0 -34176919.6635745
Gr5_1_1 0 s1 x5_a1 0 264.9204718907061
Gr6_1_1 0 s1 x6_a1 0 -0.4988805575139634
Gr7_1_1 0 s1 x7_a1 0 1.1271336404671113
Gr8_1_1 0 s1 x8_a1 0 -272.90734522530784
Gr9_1_1 0 s1 x9_a1 0 2041.0245523851574
Gr10_1_1 0 s1 x10_a1 0 -1770.1074356572951
Gr11_1_1 0 s1 x11_a1 0 -0.002659901298436308
Gr12_1_1 0 s1 x12_a1 0 -0.004087665621841382
Gr13_1_1 0 s1 x13_a1 0 -0.002661735372780287
Gr14_1_1 0 s1 x14_a1 0 -0.00265724297086992
Gr15_1_1 0 s1 x15_a1 0 -0.002658219255932735
Gd1_2 0 s1 p2 0 -0.002492651167366973
Fd1_2 0 s1 V2 -0.12463255836834865
Gr1_1_2 0 s1 x1_a2 0 5.5538004879175734e+45
Gr2_1_2 0 s1 x2_a2 0 8.857762103432897e+32
Gr3_1_2 0 s1 x3_a2 0 -1.2429717347623934e+28
Gr4_1_2 0 s1 x4_a2 0 2.202507225858983e+22
Gr5_1_2 0 s1 x5_a2 0 -1.7948072321572826e+17
Gr6_1_2 0 s1 x6_a2 0 961243102826999.0
Gr7_1_2 0 s1 x7_a2 0 5576873954141335.0
Gr8_1_2 0 s1 x8_a2 0 -1.2112284409168325e+18
Gr9_1_2 0 s1 x9_a2 0 9.181023450469315e+18
Gr10_1_2 0 s1 x10_a2 0 -7.979213948413429e+18
Gr11_1_2 0 s1 x11_a2 0 -11988793896381.986
Gr12_1_2 0 s1 x12_a2 0 -18424899804736.83
Gr13_1_2 0 s1 x13_a2 0 -11997061589534.5
Gr14_1_2 0 s1 x14_a2 0 -11976810610723.656
Gr15_1_2 0 s1 x15_a2 0 -11981211536685.645
Gd1_3 0 s1 p3 0 0.00324850661732672
Fd1_3 0 s1 V3 0.162425330866336
Gr1_1_3 0 s1 x1_a3 0 -7.23785370838368e+45
Gr2_1_3 0 s1 x2_a3 0 -1.1543660314731798e+33
Gr3_1_3 0 s1 x3_a3 0 1.6198723017112072e+28
Gr4_1_3 0 s1 x4_a3 0 -2.8703632992303466e+22
Gr5_1_3 0 s1 x5_a3 0 2.3390383238785808e+17
Gr6_1_3 0 s1 x6_a3 0 -1252716401360419.2
Gr7_1_3 0 s1 x7_a3 0 -7267923618509220.0
Gr8_1_3 0 s1 x8_a3 0 1.578503634683785e+18
Gr9_1_3 0 s1 x9_a3 0 -1.1964942696114469e+19
Gr10_1_3 0 s1 x10_a3 0 1.039871406151749e+19
Gr11_1_3 0 s1 x11_a3 0 15624100336916.387
Gr12_1_3 0 s1 x12_a3 0 24011796851097.47
Gr13_1_3 0 s1 x13_a3 0 15634875004397.701
Gr14_1_3 0 s1 x14_a3 0 15608483415010.816
Gr15_1_3 0 s1 x15_a3 0 15614218813383.207
Gd1_4 0 s1 p4 0 -6.695515487958086e-19
Fd1_4 0 s1 V4 -3.3477577439790434e-17
Gr1_1_4 0 s1 x1_a4 0 8.5346040885118e+31
Gr2_1_4 0 s1 x2_a4 0 1.3611849046762015e+19
Gr3_1_4 0 s1 x3_a4 0 -191040182742917.2
Gr4_1_4 0 s1 x4_a4 0 385016585.8896822
Gr5_1_4 0 s1 x5_a4 0 -4955.871074307328
Gr6_1_4 0 s1 x6_a4 0 27.863765751037015
Gr7_1_4 0 s1 x7_a4 0 56.42666551067641
Gr8_1_4 0 s1 x8_a4 0 -6410.753414873104
Gr9_1_4 0 s1 x9_a4 0 47420.880234151875
Gr10_1_4 0 s1 x10_a4 0 -41074.422890811315
Gr11_1_4 0 s1 x11_a4 0 -0.061721179165655525
Gr12_1_4 0 s1 x12_a4 0 -0.09485141970922037
Gr13_1_4 0 s1 x13_a4 0 -0.06176373749146318
Gr14_1_4 0 s1 x14_a4 0 -0.06165949465943427
Gr15_1_4 0 s1 x15_a4 0 -0.061682148625247395
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 6.936960565828951e-43
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 4.349369717808931e-30
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 6.207221712912381e-25
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 4.56609213752684e-22
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 5.805286807821171e-20
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 2.1802962068888233e-18
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 3.816686381592464e-17
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 4.122772545851728e-16
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.099592927322568e-15
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 6.300101197563851e-14
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 5.2899882817618375e-11
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 4.2672405270814705e-11
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 5.288165389919156e-11
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 5.292633750605933e-11
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 5.291661726915877e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.002492651167366973
Fd2_1 0 s2 V1 -0.12463255836834865
Gr1_2_1 0 s2 x1_a1 0 5.5538004867162133e+45
Gr2_2_1 0 s2 x2_a1 0 8.857762101516844e+32
Gr3_2_1 0 s2 x3_a1 0 -1.2429717344935087e+28
Gr4_2_1 0 s2 x4_a1 0 2.2025072253583743e+22
Gr5_2_1 0 s2 x5_a1 0 -1.794807232163198e+17
Gr6_2_1 0 s2 x6_a1 0 961243103669460.9
Gr7_2_1 0 s2 x7_a1 0 5576873943566177.0
Gr8_2_1 0 s2 x8_a1 0 -1.2112284400357432e+18
Gr9_2_1 0 s2 x9_a1 0 9.181023444198556e+18
Gr10_2_1 0 s2 x10_a1 0 -7.979213943012428e+18
Gr11_2_1 0 s2 x11_a1 0 -11988793888265.994
Gr12_2_1 0 s2 x12_a1 0 -18424899792264.44
Gr13_2_1 0 s2 x13_a1 0 -11997061581412.916
Gr14_2_1 0 s2 x14_a1 0 -11976810602615.775
Gr15_2_1 0 s2 x15_a1 0 -11981211528574.81
Gd2_2 0 s2 p2 0 6.538438725313566e-20
Fd2_2 0 s2 V2 3.269219362656783e-18
Gr1_2_2 0 s2 x1_a2 0 2.1854872897681894e+32
Gr2_2_2 0 s2 x2_a2 0 3.4856360260619276e+19
Gr3_2_2 0 s2 x3_a2 0 -489160070767203.4
Gr4_2_2 0 s2 x4_a2 0 926648685.8303295
Gr5_2_2 0 s2 x5_a2 0 -4200.658933562685
Gr6_2_2 0 s2 x6_a2 0 80.11433460625231
Gr7_2_2 0 s2 x7_a2 0 -79.56017810685135
Gr8_2_2 0 s2 x8_a2 0 5315.1544461549
Gr9_2_2 0 s2 x9_a2 0 -37824.629070680254
Gr10_2_2 0 s2 x10_a2 0 32582.71667985798
Gr11_2_2 0 s2 x11_a2 0 0.04896137232537038
Gr12_2_2 0 s2 x12_a2 0 0.0752422763967185
Gr13_2_2 0 s2 x13_a2 0 0.04899513215048588
Gr14_2_2 0 s2 x14_a2 0 0.048912440463046304
Gr15_2_2 0 s2 x15_a2 0 0.04893041095202366
Gd2_3 0 s2 p3 0 -1.6224159872589653e-19
Fd2_3 0 s2 V3 -8.112079936294826e-18
Gr1_2_3 0 s2 x1_a3 0 -1.1215049099663037e+32
Gr2_2_3 0 s2 x2_a3 0 -1.7886893652545241e+19
Gr3_2_3 0 s2 x3_a3 0 251022951907287.66
Gr4_2_3 0 s2 x4_a3 0 -483112878.70818734
Gr5_2_3 0 s2 x5_a3 0 3118.8536674598113
Gr6_2_3 0 s2 x6_a3 0 -3.5422340130867758
Gr7_2_3 0 s2 x7_a3 0 -83.92475656939543
Gr8_2_3 0 s2 x8_a3 0 7646.177602108724
Gr9_2_3 0 s2 x9_a3 0 -55507.872656053376
Gr10_2_3 0 s2 x10_a3 0 47948.63304086327
Gr11_2_3 0 s2 x11_a3 0 0.07205155802962536
Gr12_2_3 0 s2 x12_a3 0 0.11072642784142979
Gr13_2_3 0 s2 x13_a3 0 0.07210123884616149
Gr14_2_3 0 s2 x14_a3 0 0.07197955010693625
Gr15_2_3 0 s2 x15_a3 0 0.072005995402817
Gd2_4 0 s2 p4 0 0.00324850661732672
Fd2_4 0 s2 V4 0.162425330866336
Gr1_2_4 0 s2 x1_a4 0 -7.237853706335727e+45
Gr2_2_4 0 s2 x2_a4 0 -1.1543660311465504e+33
Gr3_2_4 0 s2 x3_a4 0 1.6198723012528549e+28
Gr4_2_4 0 s2 x4_a4 0 -2.870363298396273e+22
Gr5_2_4 0 s2 x5_a4 0 2.339038323052461e+17
Gr6_2_4 0 s2 x6_a4 0 -1252716400126336.0
Gr7_2_4 0 s2 x7_a4 0 -7267923633957172.0
Gr8_2_4 0 s2 x8_a4 0 1.5785036356114609e+18
Gr9_2_4 0 s2 x9_a4 0 -1.19649427025753e+19
Gr10_2_4 0 s2 x10_a4 0 1.0398714067065391e+19
Gr11_2_4 0 s2 x11_a4 0 15624100345253.1
Gr12_2_4 0 s2 x12_a4 0 24011796863909.094
Gr13_2_4 0 s2 x13_a4 0 15634875012740.168
Gr14_2_4 0 s2 x14_a4 0 15608483423339.205
Gr15_2_4 0 s2 x15_a4 0 15614218821714.67
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 6.936960565828951e-43
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 4.349369717808931e-30
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 6.207221712912381e-25
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 4.56609213752684e-22
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 5.805286807821171e-20
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 2.1802962068888233e-18
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 3.816686381592464e-17
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 4.122772545851728e-16
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.099592927322568e-15
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 6.300101197563851e-14
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 5.2899882817618375e-11
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 4.2672405270814705e-11
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 5.288165389919156e-11
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 5.292633750605933e-11
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 5.291661726915877e-11
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 0.00324850661732672
Fd3_1 0 s3 V1 0.162425330866336
Gr1_3_1 0 s3 x1_a1 0 -7.237853702540839e+45
Gr2_3_1 0 s3 x2_a1 0 -1.1543660305413035e+33
Gr3_3_1 0 s3 x3_a1 0 1.61987230040346e+28
Gr4_3_1 0 s3 x4_a1 0 -2.8703632967640505e+22
Gr5_3_1 0 s3 x5_a1 0 2.3390383217541907e+17
Gr6_3_1 0 s3 x6_a1 0 -1252716401441004.5
Gr7_3_1 0 s3 x7_a1 0 -7267923616532651.0
Gr8_3_1 0 s3 x8_a1 0 1.5785036346314555e+18
Gr9_3_1 0 s3 x9_a1 0 -1.196494269578925e+19
Gr10_3_1 0 s3 x10_a1 0 1.039871406124274e+19
Gr11_3_1 0 s3 x11_a1 0 15624100336503.521
Gr12_3_1 0 s3 x12_a1 0 24011796850463.02
Gr13_3_1 0 s3 x13_a1 0 15634875003984.566
Gr14_3_1 0 s3 x14_a1 0 15608483414598.371
Gr15_3_1 0 s3 x15_a1 0 15614218812970.623
Gd3_2 0 s3 p2 0 -1.6223786144129205e-19
Fd3_2 0 s3 V2 -8.111893072064603e-18
Gr1_3_2 0 s3 x1_a2 0 1.6715904507900617e+32
Gr2_3_2 0 s3 x2_a2 0 2.666021405360231e+19
Gr3_3_2 0 s3 x3_a2 0 -374138800590583.56
Gr4_3_2 0 s3 x4_a2 0 708951999.6888767
Gr5_3_2 0 s3 x5_a2 0 -3260.017200240327
Gr6_3_2 0 s3 x6_a2 0 60.98621330922949
Gr7_3_2 0 s3 x7_a2 0 -59.909361145752165
Gr8_3_2 0 s3 x8_a2 0 3986.328535033269
Gr9_3_2 0 s3 x9_a2 0 -28252.686147278386
Gr10_3_2 0 s3 x10_a2 0 24321.572915299123
Gr11_3_2 0 s3 x11_a2 0 0.03654766460510568
Gr12_3_2 0 s3 x12_a2 0 0.05616519858072796
Gr13_3_2 0 s3 x13_a2 0 0.03657286482119505
Gr14_3_2 0 s3 x14_a2 0 0.03651113913438488
Gr15_3_2 0 s3 x15_a2 0 0.03652455330947977
Gd3_3 0 s3 p3 0 -6.538589343709085e-20
Fd3_3 0 s3 V3 -3.2692946718545423e-18
Gr1_3_3 0 s3 x1_a3 0 -9.764959634557834e+31
Gr2_3_3 0 s3 x2_a3 0 -1.557414445279724e+19
Gr3_3_3 0 s3 x3_a3 0 218565350459405.7
Gr4_3_3 0 s3 x4_a3 0 -419671090.8708049
Gr5_3_3 0 s3 x5_a3 0 2869.908082258427
Gr6_3_3 0 s3 x6_a3 0 -4.7939240725603725
Gr7_3_3 0 s3 x7_a3 0 -62.856312365999166
Gr8_3_3 0 s3 x8_a3 0 5659.70744931011
Gr9_3_3 0 s3 x9_a3 0 -41205.54404337307
Gr10_3_3 0 s3 x10_a3 0 35610.56338621979
Gr11_3_3 0 s3 x11_a3 0 0.053511331707886856
Gr12_3_3 0 s3 x12_a3 0 0.08223444396980513
Gr13_3_3 0 s3 x13_a3 0 0.05354822873426376
Gr14_3_3 0 s3 x14_a3 0 0.0534578527514543
Gr15_3_3 0 s3 x15_a3 0 0.05347749318508012
Gd3_4 0 s3 p4 0 0.002492682430161812
Fd3_4 0 s3 V4 0.12463412150809061
Gr1_3_4 0 s3 x1_a4 0 -5.5538004815747955e+45
Gr2_3_4 0 s3 x2_a4 0 -8.857762093316798e+32
Gr3_3_4 0 s3 x3_a4 0 1.2429717332714422e+28
Gr4_3_4 0 s3 x4_a4 0 -2.2025072230718994e+22
Gr5_3_4 0 s3 x5_a4 0 1.794807230559819e+17
Gr6_3_4 0 s3 x6_a4 0 -961243103222647.4
Gr7_3_4 0 s3 x7_a4 0 -5576873940431719.0
Gr8_3_4 0 s3 x8_a4 0 1.211228439850336e+18
Gr9_3_4 0 s3 x9_a4 0 -9.181023442912945e+18
Gr10_3_4 0 s3 x10_a4 0 7.979213941908827e+18
Gr11_3_4 0 s3 x11_a4 0 11988793822908.215
Gr12_3_4 0 s3 x12_a4 0 18424899728014.043
Gr13_3_4 0 s3 x13_a4 0 11997061516056.871
Gr14_3_4 0 s3 x14_a4 0 11976810537255.484
Gr15_3_4 0 s3 x15_a4 0 11981211463215.42
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 6.936960565828951e-43
Cx2_a3 x2_a3 0 1.0
Gx2_a3 0 x2_a3 p3 0 0.07071067811865475
Fx2_a3 0 x2_a3 V3 3.5355339059327378
Rp2_a3 0 x2_a3 4.349369717808931e-30
Cx3_a3 x3_a3 0 1.0
Gx3_a3 0 x3_a3 p3 0 0.07071067811865475
Fx3_a3 0 x3_a3 V3 3.5355339059327378
Rp3_a3 0 x3_a3 6.207221712912381e-25
Cx4_a3 x4_a3 0 1.0
Gx4_a3 0 x4_a3 p3 0 0.07071067811865475
Fx4_a3 0 x4_a3 V3 3.5355339059327378
Rp4_a3 0 x4_a3 4.56609213752684e-22
Cx5_a3 x5_a3 0 1.0
Gx5_a3 0 x5_a3 p3 0 0.07071067811865475
Fx5_a3 0 x5_a3 V3 3.5355339059327378
Rp5_a3 0 x5_a3 5.805286807821171e-20
Cx6_a3 x6_a3 0 1.0
Gx6_a3 0 x6_a3 p3 0 0.07071067811865475
Fx6_a3 0 x6_a3 V3 3.5355339059327378
Rp6_a3 0 x6_a3 2.1802962068888233e-18
Cx7_a3 x7_a3 0 1.0
Gx7_a3 0 x7_a3 p3 0 0.07071067811865475
Fx7_a3 0 x7_a3 V3 3.5355339059327378
Rp7_a3 0 x7_a3 3.816686381592464e-17
Cx8_a3 x8_a3 0 1.0
Gx8_a3 0 x8_a3 p3 0 0.07071067811865475
Fx8_a3 0 x8_a3 V3 3.5355339059327378
Rp8_a3 0 x8_a3 4.122772545851728e-16
Cx9_a3 x9_a3 0 1.0
Gx9_a3 0 x9_a3 p3 0 0.07071067811865475
Fx9_a3 0 x9_a3 V3 3.5355339059327378
Rp9_a3 0 x9_a3 3.099592927322568e-15
Cx10_a3 x10_a3 0 1.0
Gx10_a3 0 x10_a3 p3 0 0.07071067811865475
Fx10_a3 0 x10_a3 V3 3.5355339059327378
Rp10_a3 0 x10_a3 6.300101197563851e-14
Cx11_a3 x11_a3 0 1.0
Gx11_a3 0 x11_a3 p3 0 0.07071067811865475
Fx11_a3 0 x11_a3 V3 3.5355339059327378
Rp11_a3 0 x11_a3 5.2899882817618375e-11
Cx12_a3 x12_a3 0 1.0
Gx12_a3 0 x12_a3 p3 0 0.07071067811865475
Fx12_a3 0 x12_a3 V3 3.5355339059327378
Rp12_a3 0 x12_a3 4.2672405270814705e-11
Cx13_a3 x13_a3 0 1.0
Gx13_a3 0 x13_a3 p3 0 0.07071067811865475
Fx13_a3 0 x13_a3 V3 3.5355339059327378
Rp13_a3 0 x13_a3 5.288165389919156e-11
Cx14_a3 x14_a3 0 1.0
Gx14_a3 0 x14_a3 p3 0 0.07071067811865475
Fx14_a3 0 x14_a3 V3 3.5355339059327378
Rp14_a3 0 x14_a3 5.292633750605933e-11
Cx15_a3 x15_a3 0 1.0
Gx15_a3 0 x15_a3 p3 0 0.07071067811865475
Fx15_a3 0 x15_a3 V3 3.5355339059327378
Rp15_a3 0 x15_a3 5.291661726915877e-11
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -3.3476806273605375e-19
Fd4_1 0 s4 V1 -1.6738403136802687e-17
Gr1_4_1 0 s4 x1_a1 0 -4.1393249129312904e+30
Gr2_4_1 0 s4 x2_a1 0 -6.601813782735767e+17
Gr3_4_1 0 s4 x3_a1 0 9264786634787.752
Gr4_4_1 0 s4 x4_a1 0 -17652751.523523383
Gr5_4_1 0 s4 x5_a1 0 204.32640872232034
Gr6_4_1 0 s4 x6_a1 0 -0.7671245381506993
Gr7_4_1 0 s4 x7_a1 0 2.2300179898829953
Gr8_4_1 0 s4 x8_a1 0 -273.5205527919156
Gr9_4_1 0 s4 x9_a1 0 1978.7907045900859
Gr10_4_1 0 s4 x10_a1 0 -1707.929312781758
Gr11_4_1 0 s4 x11_a1 0 -0.0025662154033734763
Gr12_4_1 0 s4 x12_a1 0 -0.00394383540003877
Gr13_4_1 0 s4 x13_a1 0 -0.0025679850645603914
Gr14_4_1 0 s4 x14_a1 0 -0.0025636504369396934
Gr15_4_1 0 s4 x15_a1 0 -0.0025645924346258606
Gd4_2 0 s4 p2 0 0.00324850661732672
Fd4_2 0 s4 V2 0.162425330866336
Gr1_4_2 0 s4 x1_a2 0 -7.23785370370658e+45
Gr2_4_2 0 s4 x2_a2 0 -1.154366030727228e+33
Gr3_4_2 0 s4 x3_a2 0 1.6198723006643978e+28
Gr4_4_2 0 s4 x4_a2 0 -2.870363297284009e+22
Gr5_4_2 0 s4 x5_a2 0 2.339038322399639e+17
Gr6_4_2 0 s4 x6_a2 0 -1252716400825990.0
Gr7_4_2 0 s4 x7_a2 0 -7267923618607400.0
Gr8_4_2 0 s4 x8_a2 0 1.578503634653378e+18
Gr9_4_2 0 s4 x9_a2 0 -1.196494269591386e+19
Gr10_4_2 0 s4 x10_a2 0 1.0398714061346617e+19
Gr11_4_2 0 s4 x11_a2 0 15624100336659.617
Gr12_4_2 0 s4 x12_a2 0 24011796850702.9
Gr13_4_2 0 s4 x13_a2 0 15634875004140.77
Gr14_4_2 0 s4 x14_a2 0 15608483414754.305
Gr15_4_2 0 s4 x15_a2 0 15614218813126.605
Gd4_3 0 s4 p3 0 0.002492682430161812
Fd4_3 0 s4 V3 0.12463412150809061
Gr1_4_3 0 s4 x1_a3 0 -5.5538004833046056e+45
Gr2_4_3 0 s4 x2_a3 0 -8.857762096075679e+32
Gr3_4_3 0 s4 x3_a3 0 1.242971733658603e+28
Gr4_4_3 0 s4 x4_a3 0 -2.202507223793191e+22
Gr5_4_3 0 s4 x5_a3 0 1.794807230718689e+17
Gr6_4_3 0 s4 x6_a3 0 -961243102499946.9
Gr7_4_3 0 s4 x7_a3 0 -5576873948965728.0
Gr8_4_3 0 s4 x8_a3 0 1.2112284401849257e+18
Gr9_4_3 0 s4 x9_a3 0 -9.181023445180183e+18
Gr10_4_3 0 s4 x10_a3 0 7.979213943848204e+18
Gr11_4_3 0 s4 x11_a3 0 11988793825822.477
Gr12_4_3 0 s4 x12_a3 0 18424899732492.6
Gr13_4_3 0 s4 x13_a3 0 11997061518973.148
Gr14_4_3 0 s4 x14_a3 0 11976810540166.836
Gr15_4_3 0 s4 x15_a3 0 11981211466127.848
Gd4_4 0 s4 p4 0 2.2786315333358955e-19
Fd4_4 0 s4 V4 1.1393157666679478e-17
Gr1_4_4 0 s4 x1_a4 0 5.455118147021294e+31
Gr2_4_4 0 s4 x2_a4 0 8.700373606307948e+18
Gr3_4_4 0 s4 x3_a4 0 -122089566534174.47
Gr4_4_4 0 s4 x4_a4 0 220412824.202899
Gr5_4_4 0 s4 x5_a4 0 652.8742997031144
Gr6_4_4 0 s4 x6_a4 0 -84.0898009908305
Gr7_4_4 0 s4 x7_a4 0 134.42403043966004
Gr8_4_4 0 s4 x8_a4 0 -9060.182067311356
Gr9_4_4 0 s4 x9_a4 0 64213.58147705196
Gr10_4_4 0 s4 x10_a4 0 -55277.908856436115
Gr11_4_4 0 s4 x11_a4 0 -0.08306506274127246
Gr12_4_4 0 s4 x12_a4 0 -0.12765167234796929
Gr13_4_4 0 s4 x13_a4 0 -0.08312233763754219
Gr14_4_4 0 s4 x14_a4 0 -0.08298204787578899
Gr15_4_4 0 s4 x15_a4 0 -0.08301253553046853
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 6.936960565828951e-43
Cx2_a4 x2_a4 0 1.0
Gx2_a4 0 x2_a4 p4 0 0.07071067811865475
Fx2_a4 0 x2_a4 V4 3.5355339059327378
Rp2_a4 0 x2_a4 4.349369717808931e-30
Cx3_a4 x3_a4 0 1.0
Gx3_a4 0 x3_a4 p4 0 0.07071067811865475
Fx3_a4 0 x3_a4 V4 3.5355339059327378
Rp3_a4 0 x3_a4 6.207221712912381e-25
Cx4_a4 x4_a4 0 1.0
Gx4_a4 0 x4_a4 p4 0 0.07071067811865475
Fx4_a4 0 x4_a4 V4 3.5355339059327378
Rp4_a4 0 x4_a4 4.56609213752684e-22
Cx5_a4 x5_a4 0 1.0
Gx5_a4 0 x5_a4 p4 0 0.07071067811865475
Fx5_a4 0 x5_a4 V4 3.5355339059327378
Rp5_a4 0 x5_a4 5.805286807821171e-20
Cx6_a4 x6_a4 0 1.0
Gx6_a4 0 x6_a4 p4 0 0.07071067811865475
Fx6_a4 0 x6_a4 V4 3.5355339059327378
Rp6_a4 0 x6_a4 2.1802962068888233e-18
Cx7_a4 x7_a4 0 1.0
Gx7_a4 0 x7_a4 p4 0 0.07071067811865475
Fx7_a4 0 x7_a4 V4 3.5355339059327378
Rp7_a4 0 x7_a4 3.816686381592464e-17
Cx8_a4 x8_a4 0 1.0
Gx8_a4 0 x8_a4 p4 0 0.07071067811865475
Fx8_a4 0 x8_a4 V4 3.5355339059327378
Rp8_a4 0 x8_a4 4.122772545851728e-16
Cx9_a4 x9_a4 0 1.0
Gx9_a4 0 x9_a4 p4 0 0.07071067811865475
Fx9_a4 0 x9_a4 V4 3.5355339059327378
Rp9_a4 0 x9_a4 3.099592927322568e-15
Cx10_a4 x10_a4 0 1.0
Gx10_a4 0 x10_a4 p4 0 0.07071067811865475
Fx10_a4 0 x10_a4 V4 3.5355339059327378
Rp10_a4 0 x10_a4 6.300101197563851e-14
Cx11_a4 x11_a4 0 1.0
Gx11_a4 0 x11_a4 p4 0 0.07071067811865475
Fx11_a4 0 x11_a4 V4 3.5355339059327378
Rp11_a4 0 x11_a4 5.2899882817618375e-11
Cx12_a4 x12_a4 0 1.0
Gx12_a4 0 x12_a4 p4 0 0.07071067811865475
Fx12_a4 0 x12_a4 V4 3.5355339059327378
Rp12_a4 0 x12_a4 4.2672405270814705e-11
Cx13_a4 x13_a4 0 1.0
Gx13_a4 0 x13_a4 p4 0 0.07071067811865475
Fx13_a4 0 x13_a4 V4 3.5355339059327378
Rp13_a4 0 x13_a4 5.288165389919156e-11
Cx14_a4 x14_a4 0 1.0
Gx14_a4 0 x14_a4 p4 0 0.07071067811865475
Fx14_a4 0 x14_a4 V4 3.5355339059327378
Rp14_a4 0 x14_a4 5.292633750605933e-11
Cx15_a4 x15_a4 0 1.0
Gx15_a4 0 x15_a4 p4 0 0.07071067811865475
Fx15_a4 0 x15_a4 V4 3.5355339059327378
Rp15_a4 0 x15_a4 5.291661726915877e-11
.ENDS s_equivalent
